US05624942
(1) Synthesis of an intermediate, 2-chloro-4-cyano-6-(3-thienylmethyloxy)pyridine
Sodium hydride (0.24 g (ca.60% in mineral oil), 0.006×1.0 mol) was suspended in 20 ml of N-methyl-2-pyrrolidinone, and 3-thiophenemethanol (0.69 g, 0.006×1.0 mol) was added thereto and the resultant solution was stirred for about 30 minutes at room temperature. The resultant mixture was cooled to 4° C. with iced water, then 4-cyano-2,6-dichloropyridine (1.04 g, 0.006 mol) was added thereto and stirred for about 1.5 hour while cooling with iced water.

reactant | Sodium hydride | 1.0 mol, 0.24 g | [H-].[Na+]
reactant | 3-thiophenemethanol | 1.0 mol, 0.69 g | S1C=C(C=C1)CO | C5H6OS
reactant | water | O | H2O
reactant | 4-cyano-2,6-dichloropyridine | 0.006 mol, 1.04 g | C(#N)C1=CC(=NC(=C1)Cl)Cl | C6H2Cl2N2
solvent | N-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 2-chloro-4-cyano-6-(3-thienylmethyloxy)pyridine | ClC1=NC(=CC(=C1)C#N)OCC1=CSC=C1 | C11H7ClN2OS
